US07705053B2
5-Bromo-2-hydroxybenzoic acid (25 g) and 40 g of potassium carbonate were suspended in 300 mL of acetone. Dimethyl sulfate (28 mL) was added to the suspension, and the mixture was stirred for 19 hours under reflux with heating. The reaction mixture was cooled to room temperature, whereafter the insolubles were separated by filtration, and washed with ethyl acetate. The filtrate and the washings were combined, and acetone and ethyl acetate were distilled off under reduced pressure. The resulting residue was dissolved in 300 mL of ethyl acetate. Water (300 mL) was added to the solution, and the organic layer was separated; followed by extracting the aqueous layer with 200 mL of ethyl acetate. After the respective organic layers were combined, the combined organic layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The anhydrous sodium sulfate was separated by filtration, and then washed with ethyl acetate. The filtrate and the washings were combined, and ethyl acetate was distilled off under reduced pressure to obtain 30 g of methyl 5-bromo-2-methoxybenzoate.

reactant | 5-Bromo-2-hydroxybenzoic acid | 25 g | BrC=1C=CC(=C(C(=O)O)C1)O | C7H5BrO3
reactant | potassium carbonate | 40 g | C([O-])([O-])=O.[K+].[K+]
reactant | Dimethyl sulfate | 28 mL | S(=O)(=O)(OC)OC | C2H6O4S
solvent | acetone | 300 mL | CC(=O)C | C3H6O
product | methyl 5-bromo-2-methoxybenzoate | 30 g | BrC=1C=CC(=C(C(=O)OC)C1)OC | C9H9BrO3
